US07601716B2
4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid ethyl ester
1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (7.0 g) was reacted with 4-ethoxycarbonyl phenyl boronic acid as in General Procedure 4A. The title compound was obtained as a yellow solid (71% yield). M.p.=154° C., LCMS: m/z=476.04 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.40, (t, 3H), 3.49 (m, 2H), 3.71 (m, 2H), 4.35 (q, 2H), 4.61 (s, 2H), 5.72 (bs, 1H), 6.62 (s, 1H), 7.44 (m, 3H), 7.50 (s, 1H), 7.63 (d, 1H), 7.72 (s, 1H), 8.07 (d, 2H).

reactant | 1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 7.0 g | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)I)C1)C(F)(F)F | C15H12ClF3IN3
reactant | 4-ethoxycarbonyl phenyl boronic acid | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
product | 4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(NCCN2CC2=C(C=CC(=C2)Cl)C(F)(F)F)N=C1)=O | C24H21ClF3N3O2
